### PR TITLE
Transitivvity closure properties

### PR DESCRIPTION
**Pull request by traiansf**
Rewrote happens_before in terms of [tc] from stdpp and extractes some lemmas about it as generic tc lemmas.

### CODE REVIEW

File: theories/VLSM/Core/MessageDependencies.v [hunk 1]
```diff
@@ -72,24 +72,14 @@ Definition msg_dep_rel : relation message :=
...
-Qed.
-
-Global Instance msg_dep_happens_before_transitive : Transitive msg_dep_happens_before.
-Proof.
-  apply flip_Transitive.
-  intros m1 m2 m3 .
-  rewrite <- !Relations.Operators_Properties.clos_trans_t1n_iff.
-  apply t_trans.
+  apply tc_r_iff.
 Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:83]: You could fit this into a single line.

File: theories/VLSM/Core/MessageDependencies.v [hunk 2]
```diff
@@ -99,9 +89,7 @@ Lemma msg_dep_happens_before_reflect
   (Hreflects : forall dm m, msg_dep_rel dm m -> P m -> P dm)
   : forall dm m, msg_dep_happens_before dm m -> P m -> P dm.
 Proof.
-  intros dm m Hdm.
-  clear -Hdm Hreflects.
-  induction Hdm; firstorder.
+  by apply tc_reflect.
 Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:93]: This too.

File: theories/VLSM/Lib/Preamble.v [hunk 3]
```diff
@@ -88,6 +88,38 @@ Proof.
...
+transitive closure will also reflect it. *)
+Lemma tc_reflect
+  `(R : relation A)
+  (P : A -> Prop)
+  (Hreflects : forall dm m, R dm m -> P m -> P dm)
+  : forall dm m, tc R dm m -> P m -> P dm.
+Proof.
+  intros dm m Hdm.
+  clear -Hdm Hreflects.
+  induction Hdm; firstorder.
```
Comment (wkolowski) [inline theories/VLSM/Lib/Preamble.v:101]:
```suggestion
  induction 1; firstorder.
```

**Review by wkolowski — APPROVED** [review]
Looks good. I made a few suggestions which I will *not* commit.

File: theories/VLSM/Core/MessageDependencies.v [hunk 4]
```diff
@@ -420,32 +404,29 @@ Qed.
...
 Global Instance msg_dep_happens_before_strict : StrictOrder (msg_dep_happens_before message_dependencies) := {}.
 
+Lemma msg_dep_rel_full_message_dependecies_subset :
+  forall x y : message, msg_dep_rel message_dependencies x y ->
+    full_message_dependencies x ⊆ full_message_dependencies y.
+Proof.
+  intros; intros z Hz.
+    apply full_message_dependencies_happens_before.
+    transitivity x; [by apply full_message_dependencies_happens_before |].
+    by constructor.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:414]: Superfluous indentation.

**Review by wkolowski — APPROVED** [review]
